US08729102B2
D) 2-[2-bromo-4-(cyclopropylmethoxy)phenyl]-N-methoxy-N-methylacetamide
WSC (4.89 g) was added to a solution of N,O-dimethylhydroxyamine hydrochloride (2.49 g), [2-bromo-4-(cyclopropylmethoxy)phenyl]acetic acid (4.85 g), HOBt (3.91 g) and triethylamine (3.56 mL) in acetonitrile (100 mL), and the mixture was stirred at room temperature for 15 hr. The reaction mixture was concentrated under reduced pressure, and the residue was diluted with ethyl acetate. The mixture was washed with 1M hydrochloric acid, water, saturated sodium hydrogen carbonate and saturated brine. The organic layer was dried over anhydrous magnesium sulfate, passed through an NH silica gel pad, and the solvent was evaporated under reduced pressure to give the title compound (4.78 g). MS (ESI+): [M+H]+ 328.0.

reactant | WSC | 4.89 g | CCN=C=NCCCN(C)C | C8H17N3
reactant | N,O-dimethylhydroxyamine hydrochloride | 2.49 g | Cl.CNOC
reactant | [2-bromo-4-(cyclopropylmethoxy)phenyl]acetic acid | 4.85 g | BrC1=C(C=CC(=C1)OCC1CC1)CC(=O)O | C12H13BrO3
reactant | HOBt | 3.91 g | C=1C=CC2=C(C1)N=NN2O | C6H5N3O
solvent | acetonitrile | 100 mL | C(C)#N | C2H3N
solvent | triethylamine | 3.56 mL | C(C)N(CC)CC | C6H15N
product | 2-[2-bromo-4-(cyclopropylmethoxy)phenyl]-N-methoxy-N-methylacetamide | 4.78 g | BrC1=C(C=CC(=C1)OCC1CC1)CC(=O)N(C)OC | C14H18BrNO3
